US08278482B2
3-Azido-N,N-dibutyl-3-methylbutanamide
To a stirred ice cold solution of 3-azido-3-methylbutanoyl chloride (10.0 g, 61.8 mmol) in anhydrous DCE (150 mL) was added dibutylamine (21.5 mL, 2 equiv, 0.123 mol) in one portion. A white solid formed immediately and the suspension was stirred vigorously for 3 h at room temperature. DCE (200 mL) and water (200 mL) was added to the reaction mixture and the contents poured into a separatory funnel. The organic layer was separated and washed with water (2×200 mL) and brine (200 mL). It was dried over anhydrous MgSO4, filtered, concentrated and dried under high vacuum to give a crude oil (15.7 g, quantitative). This material was used without further purification. 1H NMR (CDCl3, 400 MHz): δ 0.91-0.97 (dt, J=7.2, 7.4, 12H), 1.21-1.38 (m, 4H), 1.46 (s, 6H), 1.47-1.57 (m, 4H), 2.47 (s, 4H), 3.25-3.32 (m, 4H). LRMS (ESI+) for C13H26N4O (254.2); Found: 255 (MH+)

reactant | 3-azido-3-methylbutanoyl chloride | 61.8 mmol, 10.0 g | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
reactant | dibutylamine | 0.123 mol, 21.5 mL, 2 equiv | C(CCC)NCCCC | C8H19N
reactant | water | 200 mL | O | H2O
solvent | DCE | 150 mL | ClCCCl | C2H4Cl2
solvent | DCE | 200 mL | ClCCCl | C2H4Cl2
product | 3-Azido-N,N-dibutyl-3-methylbutanamide | N(=[N+]=[N-])C(CC(=O)N(CCCC)CCCC)(C)C | C13H26N4O
